US04216160
Step A: Preparation of N-acetyl-2-(benzylthio)acetamide
To a solution of 1.75 g. (0.01 mole) of N-acetyl-2-(acetylthio)acetamide in 20 ml. of dimethylformamide was added 0.5 g. of 50% sodium hydride. After evolution of hydrogen stopped, there was added 1.5 ml. of benzyl chloride and the reaction mixture was heated on a steam bath for 4 hours. The product was chromatographed by thin layer chromatography eluting with 40% ethylacetate/hexane, then 15 g. of silica gel was added and the product was stripped in vacuo. The prepack was chromatographed on 200 g. of silica gel, eluting with 15% ethylacetate/hexane. A yield of 0.65 g. of product was recrystallized from isopropanol, m.p. 86°-87° C.

reactant | N-acetyl-2-(acetylthio)acetamide | 0.01 mole | C(C)(=O)NC(CSC(C)=O)=O | C6H9NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-acetyl-2-(benzylthio)acetamide | C(C)(=O)NC(CSCC1=CC=CC=C1)=O | C11H13NO2S
